US03959289
b. 2,6-Diaminobenzonitrile
2,6-Dinitrobenzonitrile (10.0 grams) is added in portions to a stirred solution of stannous chloride (82.5 grams) is concentrated HCl (230 ml.) at room temperature. Stirring is continued at room temperature for 1/2 hours, then the reaction mixture is cooled to 0° and made strongly basic with 50% NaOH. The reaction mixture is diluted with water (1 l.) and extracted four times with methylenechloride (200 ml.). The combined extracts are washed once with water (200 ml.), dried over sodium sulfate, then taken to dryness under reduced pressure. Recrystallization of the crude solid (4.6 grams) from benzene-Skellysolve B gives the product (4.15 grams) melting at 91°-92°.

reactant | 2,6-Dinitrobenzonitrile | 10.0 grams | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | HCl | 230 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | water | 1 l | O | H2O
product | 2,6-Diaminobenzonitrile | 4.15 grams | NC1=C(C#N)C(=CC=C1)N | C7H7N3
